data/oMe_Silver.jsonl
{"reaction_id": "NR-044_1-c1ccc(F)cc1_2-C=CC_3-Cc1ccccc1_4-C_5-c1ccccc1C_6-C(C)CC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](c1ccc(F)cc1)(C=CC)C(Cc1ccccc1)(C)[N+](c1ccccc1C)(C(C)CC)[O-]"],"products_smiles": ["C(c1ccc(F)cc1)(C=CC)=C(Cc1ccccc1)(C)","O[N](c1ccccc1C)(C(C)CC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(F)cc1)(C=CC)=C(Cc1ccccc1)(C).O[N](c1ccccc1C)(C(C)CC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
{"reaction_id": "NR-142_1-c1ccccc1C_2-c1ccc(OC)cc1_3-c1ccc(C(F)(F)F)cc1","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1ccccc1C)(c1ccc(OC)cc1)(c1ccc(C(F)(F)F)cc1)"],"products_smiles": ["N(Oc1ccccc1C)(c1ccc(OC)cc1)(c1ccc(C(F)(F)F)cc1)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1ccccc1C)(c1ccc(OC)cc1)(c1ccc(C(F)(F)F)cc1)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1ccccc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
